US08859566B2
A mixture of 4-Amino benzonitrile (1.0 g, 0.0084 mol) and triethyl amine (1 ml, 0.010 mol) was taken in DCM (15 ml). Chloro acetyl chloride (0.67 ml, 0.0084 mol) was added slowly and stirred for 22 hours at 25-27° C. Solvent was removed and the residue was dissolved in ethyl acetate (20 ml), washed with water (1×15 ml) followed by brine (2×15 ml). The organic layer was dried over Na2SO4 and the solvent was removed to get pure 2-chloro-N-(4-cyano-phenyl)-acetamide (1.51 g, 92%).

reactant | 4-Amino benzonitrile | 0.0084 mol, 1.0 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | triethyl amine | 0.010 mol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | Chloro acetyl chloride | 0.0084 mol, 0.67 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(4-cyano-phenyl)-acetamide | 1.51 g, 92% | ClCC(=O)NC1=CC=C(C=C1)C#N | C9H7ClN2O
